US06727235B2
2-hydroxy-4-aminobenzoic acid/2-acetoxybenzoic acid/α-cyano-3-hydroxycinnamic acid
2-hydroxy-4-aminobenzoic acid/5-(2,4-difluorophenyl)-salicyclic acid/α-cyano-3-hydroxycinnamic acid and 2-acetoxybenzoic acid/5-(2,4-difluorophenyl)salicyclic acid/α-cyano-3-hydroxycinnamic acid.

reactant | 2-hydroxy-4-aminobenzoic acid 5-(2,4-difluorophenyl)-salicyclic acid α-cyano-3-hydroxycinnamic acid | OC1=C(C(=O)O)C=CC(=C1)N.FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)O)=C1)O.C(#N)C(C(=O)O)=CC1=CC(=CC=C1)O
reactant | 2-acetoxybenzoic acid 5-(2,4-difluorophenyl)salicyclic acid α-cyano-3-hydroxycinnamic acid | C(C)(=O)OC1=C(C(=O)O)C=CC=C1.FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)O)=C1)O.C(#N)C(C(=O)O)=CC1=CC(=CC=C1)O
product | 2-hydroxy-4-aminobenzoic acid 2-acetoxybenzoic acid α-cyano-3-hydroxycinnamic acid | OC1=C(C(=O)O)C=CC(=C1)N.C(C)(=O)OC1=C(C(=O)O)C=CC=C1.C(#N)C(C(=O)O)=CC1=CC(=CC=C1)O | InChI=1S/C10H7NO3.C9H8O4.C7H7NO3/c11-6-8(10(13)14)4-7-2-1-3-9(12)5-7;1-6(10)13-8-5-3-2-4-7(8)9(11)12;8-4-1-2-5(7(10)11)6(9)3-4/h1-5,12H,(H,13,14);2-5H,1H3,(H,11,12);1-3,9H,8H2,(H,10,11)
